US04616014
The reaction of ethyl chloroformate (2.441 g) with N-t-butoxycarbonylglycine (3.938 g) in methylene chloride under ice cooling gave a solution comprising the mixed acid anhydride, which was reacted with 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine (3.015 g) in a similar manner to that of Example 17-(1) to give 3-[2-(N-t-butoxycarbonylglycyl)hydrazino]-5-methyl-6-phenyl-1,2,4-triazine (4.068 g). The purification was conducted with column chromatography on silica gel (80 g) using a mixture of methylene chloride and methanol (30:1) as an eluent.

reactant | ethyl chloroformate | 2.441 g | ClC(=O)OCC | C3H5ClO2
reactant | N-t-butoxycarbonylglycine | 3.938 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine | 3.015 g | N(N)C=1N=NC(=C(N1)C)C1=CC=CC=C1 | C10H11N5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[2-(N-t-butoxycarbonylglycyl)hydrazino]-5-methyl-6-phenyl-1,2,4-triazine | 4.068 g | C(C)(C)(C)OC(=O)NCC(=O)NNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C17H22N6O3
